US07135492B2
Oxalyl chloride (10.2 g; 0.08 mol) was added dropwise to the solution of ethyl 2-[({[2-(methylsulfanyl)anilino]carbothioyl}amino)oxy]acetate (12 g, 0.04 mol) in methylene chloride (100 mL). The mixture was heated at reflux for 1 hour then evaporated to dryness. The residue was treated with ethanol (100 mL) and the mixture was heated at reflux for 1 hour. The mixture was evaporated to dryness. The residue was chromatographed on silica gel (20%ethyl acetate in hexane). Ethyl 2-({3-[2-(methylsulfanyl)phenyl]-4,5-dioxo-2-thioxo-1-imidazolidinyl}oxy)acetate (4.7 g) was obtained as a solid, m.p. 112–114° C. Mass spectrum; (El, M.+) m/z 354. 1H-NMR (DMSO-d6; 300 MHz): δ 7.56–7.46 (m, 2H), 7.34 (m, 2H), 4.94 (q, 2H), 4.19 (q, 2H), 2.43 (s, 3H), and 1.23 ppm (t, 3H).

reactant | Oxalyl chloride | 0.08 mol, 10.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethyl 2-[({[2-(methylsulfanyl)anilino]carbothioyl}amino)oxy]acetate | 0.04 mol, 12 g | CSC1=C(NC(=S)NOCC(=O)OCC)C=CC=C1 | C12H16N2O3S2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-({3-[2-(methylsulfanyl)phenyl]-4,5-dioxo-2-thioxo-1-imidazolidinyl}oxy)acetate | 4.7 g | CSC1=C(C=CC=C1)N1C(N(C(C1=O)=O)OCC(=O)OCC)=S | C14H14N2O5S2
